US07592358B2
44.1d. (5-(4-chlorophenyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridin-3-yl)dimethylamine
The product was prepared analogously to Example 7.1 e starting from 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine and [5-(4-chlorophenyl)-2-ethynylpyridin-3-yl]dimethylamine. Yield: 34 mg (5% of theoretical); C29H32ClN3O (M=474.037); calc.: molpeak (M+H)+:474/476 (Cl); found: molpeak (M+H)+:474/476 (Cl); HPLC-MS: 5.40 minutes (method D).

reactant | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine | IC1=CC=C(OCCN2CCC(CC2)C)C=C1 | C14H20INO
reactant | [5-(4-chlorophenyl)-2-ethynylpyridin-3-yl]dimethylamine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#C)N(C)C | C15H13ClN2
product | (5-(4-chlorophenyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridin-3-yl)dimethylamine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C)N(C)C | C29H32ClN3O
